US09340549B2
To a round bottom flask were added (S)-5,5-dimethyl-4-phenyloxazolidin-2-one (commercially available from Sigma-Aldrich, Milwaukee, Wis.) (1.717 g, 8.98 mmol), methyl 4-iodobenzoate (commercially available from Sigma-Aldrich, Milwaukee, Wis.) (2.353 g, 8.98 mmol), and dioxane (90 mL). Tribasic potassium phosphate (9.53 g, 44.9 mmol), and copper (I) iodide (1.710 g, 8.98 mmol) were then added to the flask. The vessel was purged with nitrogen and N,N′-dimethylethylenediamine (1.933 mL, 17.96 mmol) was added. The suspension was heated at reflux overnight yielding a tan suspension. The mixture was filtered through Celite® brand filter aid, and the filtrate was dried under reduced pressure providing (S)-methyl 4-(5,5-dimethyl-2-oxo-4-phenyloxazolidin-3-yl)benzoate (2.72 g, 8.36 mmol, 93% yield) as a light green oil which was used in the next step. 1H NMR (400 MHz, CDCl3) δ=7.94-7.90 (m, 2H), 7.55-7.51 (m, 2H), 7.39-7.32 (m, 3H), 7.21-7.16 (m, 2H), 5.04 (s, 1H), 3.86 (s, 3H), 1.70 (s, 3H), 1.02 (s, 3H).

reactant | (S)-5,5-dimethyl-4-phenyloxazolidin-2-one | CC1([C@@H](NC(O1)=O)C1=CC=CC=C1)C | C11H13NO2
reactant | methyl 4-iodobenzoate | IC1=CC=C(C(=O)OC)C=C1 | C8H7IO2
reactant | potassium phosphate | 44.9 mmol, 9.53 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | N,N′-dimethylethylenediamine | 17.96 mmol, 1.933 mL | CNCCNC | C4H12N2
catalyst | copper (I) iodide | 8.98 mmol, 1.710 g | [Cu]I
solvent | dioxane | 90 mL | O1CCOCC1 | C4H8O2
product | (S)-methyl 4-(5,5-dimethyl-2-oxo-4-phenyloxazolidin-3-yl)benzoate | 8.36 mmol, 2.72 g, 93% yield | CC1([C@@H](N(C(O1)=O)C1=CC=C(C(=O)OC)C=C1)C1=CC=CC=C1)C | C19H19NO4
